US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 53 using 4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid (1.00 g), 4-aminopyridine (321 mg) and 2-chloro-1-methylpyridinium iodide (949 mg), the objective 4-(tert-butoxycarbonylamino)-6-methyl-N-(4-pyridyl)thiochromane-7-carboxamide (834 mg) was obtained as colorless crystals.

reactant | 4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid | 1.00 g | C(C)(C)(C)OC(=O)NC1CCSC2=CC(=C(C=C12)C)C(=O)O | C16H21NO4S
reactant | 4-aminopyridine | 321 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2-chloro-1-methylpyridinium iodide | 949 mg | [I-].ClC1=[N+](C=CC=C1)C
product | 4-(tert-butoxycarbonylamino)-6-methyl-N-(4-pyridyl)thiochromane-7-carboxamide | 834 mg | C(C)(C)(C)OC(=O)NC1CCSC2=CC(=C(C=C12)C)C(=O)NC1=CC=NC=C1 | C21H25N3O3S
